US08440702B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4″-(hydroxymethyl)-6′-methoxy-4-(trifluoromethyl)-1,1′:3′,1″-terphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one
2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid (2 g, 2.81 mmol) and THF (18.74 ml) were stirred at 0° C. (ice bath). To this mixture was added borane tetrahydrofuran complex (5.90 ml, 5.90 mmol) in 3 min. The resulting mixture was staged at 0° C. for 15 min. The ice bath was then removed. Reaction mixture was stirred at room temperature for additional 1 hr. TLC indicated completion of reaction. Reaction was quenched by water (ice bath). The crude mixture was worked up with aqueous sodium hydrogen carbonate, extracted with ethyl acetate, dried over Na2SO4, filtered and evaporated to afford a dark mixture. The resulting dark mixture was purified by flash chromatography (SiO2, Biotage 40M cartridge). The column was eluted by a EtOAc/hexanes mixture (0% to 40%). Related fractions were pooled and evaporated affording the title compound. LCMS (ESI) calc.=697.19; found=680.29 (M−OH−)+. 1H NMR (CDCl3, 400 MHz, 1:1 mixture of atropisomers): δ 7.83 (d, J=4 Hz, 1H), 7.71 (s, 0.5H), 7.67 (s, 1H), 7.66-7.58 (m, 2.5H) 7.43 (d, J=8 Hz, 0.5H), 7.40 (d, J=8 Hz, 0.5H), 7.38-7.32 (m, 1H), 7.28-7.23 (m, 1H), 7.22-7.14 (m, 2H), 7.12 (s, 1H), 7.05 (d, J=5.6 Hz, 0.5H), 7.03 (d, J=5.6 Hz, 0.5H), 5.56 (d, J=8.4 Hz, 0.5H), 5.23 (d, J=8 Hz, 0.5H), 4.97 (d, J=10.8 Hz, 0.5H), 4.93 (d, J=10.8 Hz, 0.5H), 4.68 (s, 2H), 4.15 (d, J=15.6 Hz, 0.5H), 3.95 (d, J=15.6 Hz, 0.5H), 3.85 (s, 1.5H), 3.83 (s, 1.5H), 3.80-3.66 (m, 1H), 2.32 (s, 1.5H), 2.26 (s, 1.5H), 0.52 (d, J=6.8 Hz, 1.5H), 0.38 (d, J=6.8 Hz, 1.5H).

reactant | 2″-({(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-4-methyl-2-oxo-1,3-oxazolidin-3-yl}methyl)-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | 2.81 mmol, 2 g | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)O)C)C)(F)F | C35H26F9NO5
solvent | THF | 18.74 ml | C1CCOC1 | C4H8O
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-{[4″-(hydroxymethyl)-6′-methoxy-4-(trifluoromethyl)-1,1′:3′,1″-terphenyl-2-yl]methyl}-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)C1=CC=C(C=C1)CO)C)(F)F | C34H26F9NO4
